US08859548B2
Step 4. Preparation of 4-(4-bromo-2-cyclobutyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)-2-chloropyrimidine
To a solution of 4,5-dibromo-2-cyclobutyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (0.43 g, 1.0 mmol) in THF (5 mL) at −78° C. under nitrogen was added n-BuLi (2.0 M in pentane, 0.68 mL, 1.36 mmol), dropwise over 5 minutes. After 40 minutes, a solution of 2-chloropyrimidine (0.17 g, 1.47 mmol) in THF (5 mL) was added dropwise over one minute. The reaction was stirred at −78° C. for 1 hour and LCMS indicated complete reaction. The reaction was slowly quenched with 1:1 water-THF solution (50 mL) from an addition funnel, keeping the temperature between −40° C. and −35° C. After 15 minutes of stirring, a solution of DDQ (0.36 g, 1.61 mmol) in THF (20 mL) was added slowly, and the mixture was stirred for 15 minutes under ice water cooling. Aqueous 2.0 N NaOH solution (12 mL) was then added followed by 1:1 water-THF solution (12 mL). The resulting mixture was partitioned with EtOAc and the layers separated. The organic layer was washed with water (2×), brine (2×), dried (Na2SO4), and concentrated to give a brown oil (0.45 g) as 4-(4-bromo-2-cyclobutyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)-2-chloropyrimidine which was carried forward without further purification: LCMS (m/z) 443.1 (MH+), tR=1.27 minutes.

reactant | 4,5-dibromo-2-cyclobutyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 1.0 mmol, 0.43 g | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)C1CCC1 | C13H22Br2N2OSi
reactant | n-BuLi | 1.36 mmol, 2.0 M, 0.68 mL | [Li]CCCC
reactant | 2-chloropyrimidine | 1.47 mmol, 0.17 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DDQ | 1.61 mmol, 0.36 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | NaOH | 2.0 N, 12 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water THF | 12 mL | O.C1CCOC1
product | 4-(4-bromo-2-cyclobutyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)-2-chloropyrimidine | 0.45 g | BrC=1N=C(N(C1C1=NC(=NC=C1)Cl)COCC[Si](C)(C)C)C1CCC1 | C17H24BrClN4OSi
